US07078405B2
4-[2-Ethyl-8-(2-methoxy-4,6-dimethylphenyl)imidazo[1,2-a]pyrazin-3-yl]-4-heptanol
The resulting 1-[2-ethyl-8-(2-methoxy-4,6-dimethylphenyl)imidazo[1,2-a]pyrazin-3-yl]-1-butanone (220 mg, 0.63 mmol) was dissolved in tetrahydrofuran (2 mL), then a 0.90M propylmagnesium bromide solution in tetrahydrofuran (3.6 mL, 3.2 mmol) was added thereto under ice-cooling, and the mixture was stirred at room temperature for 2 hours. An aqueous saturated ammonium chloride solution was added to the reaction mixture, which was extracted with ethyl acetate and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=6:5) to give the title compound (150 mg) as white crystals.

reactant | 1-[2-ethyl-8-(2-methoxy-4,6-dimethylphenyl)imidazo[1,2-a]pyrazin-3-yl]-1-butanone | 0.63 mmol, 220 mg | C(C)C=1N=C2N(C=CN=C2C2=C(C=C(C=C2C)C)OC)C1C(CCC)=O | C21H25N3O2
reactant | propylmagnesium bromide | 0.90M | C(CC)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.2 mmol, 3.6 mL | O1CCCC1 | C4H8O
product | 4-[2-Ethyl-8-(2-methoxy-4,6-dimethylphenyl)imidazo[1,2-a]pyrazin-3-yl]-4-heptanol | 150 mg | C(C)C=1N=C2N(C=CN=C2C2=C(C=C(C=C2C)C)OC)C1C(CCC)(CCC)O | C24H33N3O2
